US08497264B2
To a solution of 7-bromo-1-fluoro-5-methylene-3-(neopentyloxy)-5H-chromeno[2,3-c]pyridine (995 mg, 2.63 mmol) in THF (60 mL)/Water (10 mL) was added iodine (1335 mg, 5.26 mmol) and silver oxide (1219 mg, 5.26 mmol). The reaction mixture was allowed to stir at rt for 20 min. K2CO3 (545 mg, 3.95 mmol) was added in one portion and the reaction mixture was allowed to stir for 30 min. The reaction mixture was filtered through a pad of celite. The reaction mixture was partitioned between water and EtOAc. The organic phase was separated, dried over Na2SO4. The solvent was removed under reduced pressure to afford 7-bromo-1-fluoro-3-(neopentyloxy)spiro[chromeno[2,3-c]pyridine-5,2′-oxirane] as a yellow solid (1000 mg) which was taken onto the next step without further purification.

reactant | 7-bromo-1-fluoro-5-methylene-3-(neopentyloxy)-5H-chromeno[2,3-c]pyridine | 2.63 mmol, 995 mg | BrC=1C=C2C(C3=C(C(=NC(=C3)OCC(C)(C)C)F)OC2=CC1)=C | C18H17BrFNO2
reactant | Water | 10 mL | O | H2O
reactant | iodine | 5.26 mmol, 1335 mg | II | I2
reactant | K2CO3 | 3.95 mmol, 545 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
catalyst | silver oxide | 5.26 mmol, 1219 mg | [Ag]=O
product | 7-bromo-1-fluoro-3-(neopentyloxy)spiro[chromeno[2,3-c]pyridine-5,2′-oxirane] | 1000 mg | BrC=1C=C2C(=CC1)OC=1C(=NC(=CC1C21OC1)OCC(C)(C)C)F | C18H17BrFNO3
